Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.0752333423
[C:8][H:9].[O:1][C:2]([H:3])([H:4])[C:5]=[C:6]=[O:7]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8][H:9],-3.95466832856
[H:1][O:2][C:3]#[C:4][C:5](=[O:6])[C:8]([H:9])[H:10].[H:7]>>[H:1][O:2][C:3]#[C:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10],-3.80341355971
[H:1][O:2][O:3][C@@:4]([H:5])([C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3]/[C:4](=[C:6]\[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5],1.90615933729
[H:11].[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]=[C:12]([H:13])[H:14]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.81690313419
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:8][C:9]([H:10])([H:11])[H:12].[H:7]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-1.74627180506
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],1.94593286801
[C:4]([H:5])#[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])([H:10])[H:11],1.41476524634
[H:1][C:2]=[C:3]([H:4])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],-1.58508562462
[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3][O:4][C:5]([H:6])[H:7]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.5153908577500002
[C:3](#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11][H:12].[H:1][C:2][H:13]>>[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-6.7460797364100005
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[H:11].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9][H:10],4.12370904452
[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:9]([H:10])([H:11])[H:12].[O:7][H:8]>>[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-6.288150302540001
[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]=[C:3]([H:4])[C:5][H:6]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-7.588254899510001
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:12].[H:1][O:2]/[C:3]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])=[C:10](\[H:11])[O:13][H:14],3.85359495762
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-3.73184030839
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:9]([H:10])=[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8],4.5913260198
[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2]/[C:3]([O:4][H:5])=[C:6](\[H:7])[O:9][H:10].[H:8],3.37846012497
[C:3]([H:4])=[C:5]([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-6.13893599175
[C:7]([H:8])([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.85159499421
[C:1].[C:2]([H:3])([H:4])[O:5][C:6](=[O:7])[C:8]([H:9])([H:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[O:7])[C:8]([H:9])([H:10])[H:11],-3.76649304538
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12],3.04999982709
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12],1.98661554745
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[O:15][H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16],-4.44310315561
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:8][C:9]([H:10])([H:11])[H:12].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-3.80208565596
[H:14].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.629726434069999
[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:9][C:10]([H:11])([H:12])[H:13].[O:3]=[C:4][C:5]([H:6])([H:7])[H:8],0.482445193569
